US07674922B2
Purified Delta-9-Tetrahydrocannabinol
To a mechanically stirred slurry of crystalline purified delta-9-tetrahydrocannabinol (1S)-10-camphorsulfonate (1.1 g, 2.1 mmol) in water (3.6 mL) and t-butanol (7.4 mL) under argon, was added a mixture of sodium hydroxide (0.83 g, 21 mmol) in water (7.4 mL) and t-butanol (15 mL). The slurry was heated to 70° C. over 2 h, at which point the HPLC analysis showed the hydrolysis to be complete. The reaction mixture was cooled to ambient temperature and diluted with water (11 mL) and extracted with heptane (11 mL). The heptane solution was washed with water (2×6 mL). The heptane solution was concentrated under reduced pressure and the residue was dissolved in ethanol (5 mL). The ethanol solution was filtered through a 0.45 micron filter. HPLC analysis showed 99.2% delta-9-tetrahydrocannabinol and 0.49% cis-delta-9-tetrahydrocannabinol. (Agilent Technologies (Wilmington, Del.) Hypersil Gold, 4.6 mm×150 mm, isocratic MeOH/H2O/THF (71:24:5) mixture at 1 mL/min flow rate, 228 nm, delta-9-tetrahydrocannabinol rt=18.9 min, cis-delta-9-tetrahydrocannabinol rt=17.7 min). This solution was stored under an argon atmosphere and in the freezer until it was carried into the next step.

reactant | delta-9-tetrahydrocannabinol (1S)-10-camphorsulfonate | 2.1 mmol, 1.1 g | CCCCCC=1C=C(C2=C(C1)OC([C@H]3[C@H]2C=C(CC3)C)(C)C)O.[C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-]
reactant | sodium hydroxide | 21 mmol, 0.83 g | [OH-].[Na+]
solvent | water | 3.6 mL | O | H2O
solvent | t-butanol | 7.4 mL | C(C)(C)(C)O | C4H10O
solvent | water | 7.4 mL | O | H2O
solvent | t-butanol | 15 mL | C(C)(C)(C)O | C4H10O
solvent | water | 11 mL | O | H2O
product | Delta-9-Tetrahydrocannabinol | CCCCCC=1C=C(C2=C(C1)OC([C@H]3[C@H]2C=C(CC3)C)(C)C)O | C21H30O2
